US08097759B2
5-Bromo-2-hydroxy-N-(5-methylthiazol-2-yl)benzamide (Compound No. 185)
Using 5-bromosalicylic acid and 2-amino-5-methylthiazole as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 2-amino-5-methylthiazole | NC=1SC(=CN1)C | C4H6N2S
product | 5-Bromo-2-hydroxy-N-(5-methylthiazol-2-yl)benzamide | Yield: 12.9% | BrC=1C=CC(=C(C(=O)NC=2SC(=CN2)C)C1)O | C11H9BrN2O2S
